US06727264B1
N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-2-PYRIDINECARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 2-pyridinecarbonyl chloride: ESMS m/e: 484.6 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 2-pyridinecarbonyl chloride | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
product | N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-2-PYRIDINECARBOXAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CC[C@@H](C1=CC=CC=C1)NC(=O)C1=NC=CC=C1 | C30H36N4O2
